US09403808B2
5-Cyclopropyl-6-cyclopropylmethoxy-pyrazine-2-carboxylic acid ((S)-2,2-dimethyl-1-methylcarbamoyl-propyl)-amide
The title compound was synthesized in analogy to Example 8e, using 5-cyclopropyl-6-cyclopropylmethoxy-pyrazine-2-carboxylic acid (Example 10 g, 100 mg, 0.43 mmol) and (S)-2-amino-3,3,N-trimethyl-butyramide (CAN 89226-12-0, 106.7 mg, 0.64 mmol) as starting materials, and isolated (45 mg, 29.4%) as off white solid, LC-MS (UV peak area, ESI) 100%, 361.4 (M+H).

reactant | 5-cyclopropyl-6-cyclopropylmethoxy-pyrazine-2-carboxylic acid | 0.43 mmol, 10 g | C1(CC1)C=1N=CC(=NC1OCC1CC1)C(=O)O | C12H14N2O3
reactant | (S)-2-amino-3,3,N-trimethyl-butyramide | 0.64 mmol, 106.7 mg | N[C@H](C(=O)NC)C(C)(C)C | C7H16N2O
product | 5-Cyclopropyl-6-cyclopropylmethoxy-pyrazine-2-carboxylic acid ((S)-2,2-dimethyl-1-methylcarbamoyl-propyl)-amide | CC([C@@H](C(NC)=O)NC(=O)C1=NC(=C(N=C1)C1CC1)OCC1CC1)(C)C | C19H28N4O3
